US06057315
3-Propyl-2,4,6-trimethoxybenzoic acid
To the stirred solution of 2-propyl-1,3,5-trimethoxybenzene (3.00 g, 14.27 mmol) in dry THF (50 mL) at 0° C. in nitrogen atmosphere was added 6.28 mL (15.7 mmol) of 2.5 M n-BuLi in hexane dropwise via syringe. After the resulting solution was stirred at room temperature for 4 hr, 20 g of dry ice was added in portions over 20 min. After 30 min 50 mL of water was added. The mixture was evaporated under reduced pressure to remove THF and the aqueous phase was extracted with ether, acidified with hydrochloric acid to pH 3, and extracted again with ethyl acetate. The organic layer was washed with brine, dried (MgSO4) and concentrated. Purification of the solid residue by flash chromatography on silica column with 10% MeOH in dichloromethane provided 1.67 g of the title compound: mp 129.0-130.0° C. dec; 1H NMR (CDCl3): 6.30 (1 H, s), 3.93 (3 H, s), 3.87 (3 H, s), 3.83 (3 H, s), 2.54 (2 H, m), 1.49 (2 H, sex, J=7.5 Hz), 0.94 (3 H, t, J=7.5 Hz).

reactant | 2-propyl-1,3,5-trimethoxybenzene | 14.27 mmol, 3.00 g | C(CC)C1=C(C=C(C=C1OC)OC)OC | C12H18O3
reactant | n-BuLi | 15.7 mmol, 2.5 M, 6.28 mL | [Li]CCCC
reactant | dry ice | 20 g | C(=O)=O | CO2
reactant | water | 50 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-Propyl-2,4,6-trimethoxybenzoic acid | 1.67 g | C(CC)C=1C(=C(C(=O)O)C(=CC1OC)OC)OC | C13H18O5
